### PR TITLE
Contract Morphisms

### PR DESCRIPTION
**Pull request by differentialderek**
This is a draft pull request to add contract morphisms to the ConCert codebase.

Contract morphisms are structural relationships between smart contracts, defined as functions between component `init` and `receive` functions. The idea is that they will allow us to reason about one smart contract in terms of another. Since proofs of smart contracts in ConCert are proofs of well-defined mathematical objects, it stands to reason that having a notion of functions between these objects will help us build robust theory surrounding them. 

These could also be useful more immediately, in a practical setting, e.g.
- To prove backwards compatibility with an upgraded contract 
- To isomorphically transform a contract optimized for performance into one optimized for ease of reasoning
- To prove properties of a minimal, proof-of-concept contract that can later be embedded into a deployment-ready contract without having to reprove core results

This pull request also includes some basic results about systems of contracts, including the notion of a disjoint union of contracts, a product of contracts, etc. which complements the notion of morphisms of contracts, and could come in handy for future results on systems of contracts which involve contract morphisms. A more robust version of systems of contracts will be included later on.

The main result in `ContractMorphisms.v` is `cm_lift` which states that, given a morphism of contracts `C1 -> C2`, and a `bstate` and `trace` where `C1` is deployed, I can derive a `bstate'` and `trace'` where `C2` is deployed in place of `C1`. Thus in certain cases, one could prove a result about `C2` by first proving it where `C1` is deployed, and then transforming the state and/or trace to that corresponding to `C2`.

TODOs:
- [ ] There are four `Admitted` lemmas in `ContractMorphisms.v` which I still need to prove, but which should be reasonable (and which might require some tweaking of definitions)
- [ ] Code cleanup, etc. for readability and to improve style of code
- [ ] Perhaps remove `ContractSystems.v` from this draft

### CODE REVIEW

File: execution/theories/ContractMorphisms.v [hunk 1]
```diff
@@ -0,0 +1,1632 @@
...
+        (* proof of commutativity *)
+        init_commutes : 
+            forall x : Chain * ContractCallContext * Setup,
+                uncurry_fun3 C'.(init) (init_inputs x) = 
+                init_outputs (uncurry_fun3 C.(init) x) ;
+    }.
+
+(** The receive component *)
+Record RecvCM
+    { Setup Setup' Msg Msg' State State' Error Error' : Type }
```
Comment (spitters) [inline execution/theories/ContractMorphisms.v:70]: No need for this line. Coq infers them from the next one.

File: execution/theories/ContractMorphisms.v [hunk 2]
```diff
@@ -0,0 +1,1632 @@
...
+    +   apply 
+        (is_eq_cm_recv 
+            (composition_cm h (composition_cm g f))
+            (composition_cm (composition_cm h g) f)); auto.
+Qed.
+
+End MorphismComposition.
+
+
+(** We will treat various type of contract morphisms, starting with isomorphisms. *)
```
Comment (spitters) [inline execution/theories/ContractMorphisms.v:428]: Did you prove that these are the usual categorical isomorphisms.

File: execution/theories/ContractMorphisms.v [hunk 3]
```diff
@@ -0,0 +1,1632 @@
...
+    -   rewrite composition_assoc_cm.
+        rewrite <- (composition_assoc_cm f' f g).
+        rewrite iso_f2. rewrite (composition_id_cm_right g). exact iso_g2.
+Qed.
+
+End Isomorphisms.
+
+
+(** Now, onto injections *)
+Section Injections.
```
Comment (spitters) [inline execution/theories/ContractMorphisms.v:560]: Are these monos?

File: execution/theories/ContractMorphisms.v [hunk 4]
```diff
@@ -0,0 +1,1632 @@
...
+        `{Serializable Msg}  `{Serializable Setup}  `{Serializable State}  `{Serializable Error}
+        `{Serializable Msg'} `{Serializable Setup'} `{Serializable State'} `{Serializable Error'}
+        (C1 : Contract Setup Msg State Error) (C2 : Contract Setup' Msg' State' Error') := 
+    exists (f : ContractMorphism C1 C2), is_inj_cm f.
+
+End Injections.
+
+
+(** Finally, we treat surjections, or quotients *)
+Section Surjections.
```
Comment (spitters) [inline execution/theories/ContractMorphisms.v:589]: Are these epis?

File: execution/theories/ContractMorphisms.v [hunk 5]
```diff
@@ -0,0 +1,1632 @@
...
+Lemma chainstep_transform_next_block_valid
+    (cstate1 cstate2 : ChainState) 
+    (m : ChainStateMorphism cstate1 cstate2)
+    (header : BlockHeader) : 
+    IsValidNextBlock header cstate1 -> IsValidNextBlock header cstate2.
+Proof.
+    intro. destruct H7.
+    assert (env_chain cstate1 = env_chain cstate2); 
+    try exact (chain_eq' cstate1 cstate2 (env_morph cstate1 cstate2 m)).
+    rewrite H7 in valid_height.
```
Comment (spitters) [inline execution/theories/ContractMorphisms.v:1146]: Would 
rewrite in * 
have helped here?

File: execution/theories/ContractMorphisms.v [hunk 6]
```diff
@@ -0,0 +1,1632 @@
...
+    (forall bstate new_acts, ActionEvaluation bstate1 act  bstate new_acts -> False) ->
+    (forall bstate new_acts, ActionEvaluation bstate2 act' bstate new_acts -> False).
+Proof.
+    intros.
+    apply (H7 bstate new_acts).
+    apply (act_eval_pullback bstate1 bstate2 c_morph bstate act new_acts).
+    exact X.
+Qed.
+
+Lemma list_map_concat {A B : Type} {g : A -> B} :
```
Comment (spitters) [inline execution/theories/ContractMorphisms.v:1406]: This should be in a library already

File: execution/theories/ContractMorphisms.v [hunk 7]
```diff
@@ -0,0 +1,1632 @@
...
+From ConCert.Execution Require Import Serializable.
+From ConCert.Execution Require Import ResultMonad.
+From ConCert.Execution Require Import BuildUtils.
+From ConCert.Execution Require Import InterContractCommunication.
+From ConCert.Utils Require Import RecordUpdate.
+
+Axiom todo : string -> forall {A}, A.
+
+(* some auxiliary functions *)
+Definition curry_fun3 {A B C D : Type} (f : A * B * C -> D) : A -> B -> C -> D :=
```
Comment (spitters) [inline execution/theories/ContractMorphisms.v:21]: This can probably be simplified using applicative functors.

File: execution/theories/ContractMorphisms.v (hunk 3 above)
Comment (differentialderek) [reply execution/theories/ContractMorphisms.v:560]: They should be; I have called them injections because I haven't proved they are monos categorically, but what I want from them are to be monos.

File: execution/theories/ContractMorphisms.v (hunk 4 above)
Comment (differentialderek) [reply execution/theories/ContractMorphisms.v:589]: Same with the injectsion/monos here -- I want them to be but I haven't proved it yet. It might require some tweaking of definition to get right.

File: execution/theories/ContractMorphisms.v (hunk 5 above)
Comment (differentialderek) [reply execution/theories/ContractMorphisms.v:1146]: Yes, much better, good call :)

File: execution/theories/ContractMorphisms.v (hunk 7 above)
Comment (differentialderek) [reply execution/theories/ContractMorphisms.v:21]: yes, definitely -- it's high on my to-do list to get rid of those (this is my bad Coq programming showing haha)
